US05334576
Preparation of methyl 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methylthiomethylnicotinate
To 30 mL of absolute methanol, stirred at -10° under nitrogen, is added in portions 0.9 g of 50% sodium hydride (oil dispersion). A stream of methyl mercaptan is then added to the solution until a pH of 10 is achieved. To this solution is added 3 g of methyl 6-chloromethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate, and stirring is continued at -10° for 1 hour. The reaction is then allowed to warm to room temperature over 1 hour, and is then acidified with glacial acetic acid to pH 4. The mixture is concentrated in vacuo, and the residue is dissolved in methylene chloride, washed with saturated aqueous sodium bicarbonate, dried, and concentrated in vacuo. The residue is dissolved in absolute methanol, washed with hexanes, and concentrated in vacuo to afford the desired product. Recrystallization from methylene chloride-hexane affords a solid, mp 113.5°-115° C.

reactant | methanol | 30 mL | CO | CH4O
reactant | sodium hydride | 0.9 g | [H-].[Na+]
reactant | methyl mercaptan | CS | CH4S
reactant | methyl 6-chloromethyl-2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)nicotinate | 3 g | ClCC1=NC(=C(C(=O)OC)C=C1)C=1NC(C(N1)(C)C(C)C)=O | C15H18ClN3O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | methyl 2-(4-isopropyl-4-methyl-5-oxo-2-imidazolin-2-yl)-6-methylthiomethylnicotinate | C(C)(C)C1(N=C(NC1=O)C1=C(C(=O)OC)C=CC(=N1)CSC)C | C16H21N3O3S
